US04346087
Into an apparatus similar to that in Example 1, were charged 103.1 g (1 mole) of diethylenetriamine and 116.1 g (1 mole) of methyl acetoacetate. At 110° to 120° C. and under a reduced pressure of 70 mmHg, 18 g of water and 32 g of methanol were distilled off. Then, with the addition of 282.5 g (1 mole) of oleic acid, the amide formation was effected at 210° to 215° C. to distil off 18 g of water and to obtain 4-oleamidoethyl-7-methyl-3,6-dihydro-2H-1,4-diazepin-5-one.

reactant | diethylenetriamine | 1 mole, 103.1 g | NCCNCCN | C4H13N3
reactant | methyl acetoacetate | 1 mole, 116.1 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | oleic acid | 1 mole, 282.5 g | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
product | 4-oleamidoethyl-7-methyl-3,6-dihydro-2H-1,4-diazepin-5-one | C(CCCCCCC\C=C/CCCCCCCC)(=O)NCCN1CCN=C(CC1=O)C | C26H47N3O2
